US06900227B2
Preparation of 4,7-dichloro-2,2-diphenyl-benzo[1,3]dioxole-5-carboxylic acid
2,5-Dichloro-3,4-dihydroxybenzoic acid (1 g, 4.48 mmol) and dichlorodiphenylmethane (2.12 g, 9.96 mmol) are dissolved in toluene (40 ml) and heated to reflux for 24 hours. After cooling the solvent is evaporated and the residue is purified by column chromatography on silic agel (100 g, dichloromethane then 5% methanol in dichloromethane eluant) to yield the acid as white crystals (490 mg, 28%).

reactant | 2,5-Dichloro-3,4-dihydroxybenzoic acid | 4.48 mmol, 1 g | ClC1=C(C(=O)O)C=C(C(=C1O)O)Cl | C7H4Cl2O4
reactant | dichlorodiphenylmethane | 9.96 mmol, 2.12 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H10Cl2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4,7-dichloro-2,2-diphenyl-benzo[1,3]dioxole-5-carboxylic acid | 490 mg, 28% | ClC1=C(C=C(C=2OC(OC21)(C2=CC=CC=C2)C2=CC=CC=C2)Cl)C(=O)O | C20H12Cl2O4
